US07285671B2
A solution of 2-(4-Hydroxy-2-oxo-2H-chromen-3-ylmethyl)-benzoic acid in a 5% sodium bicarbonate solution is added to a solution of 1.5 equivalent of chloromethylchlorosulfate in methylene chloride. Tetrabutylammonium hydrogensulfate (catalytic amount) is added, and the mixture stirred vigorously for 5 hours. The organic layer is dried over MgSO4 and conc. in vacuo to give 2-(4-Hydroxy-2-oxo-2H-chromen-3-ylmethyl)-benzoic acid chloromethyl ester as white solid.

reactant | 2-(4-Hydroxy-2-oxo-2H-chromen-3-ylmethyl)-benzoic acid | OC1=C(C(OC2=CC=CC=C12)=O)CC1=C(C(=O)O)C=CC=C1 | C17H12O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloromethylchlorosulfate | 1.5 equivalent | ClCOS(=O)(=O)Cl | CH2Cl2O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Tetrabutylammonium hydrogensulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-Hydroxy-2-oxo-2H-chromen-3-ylmethyl)-benzoic acid chloromethyl ester | ClCOC(C1=C(C=CC=C1)CC=1C(OC2=CC=CC=C2C1O)=O)=O | C18H13ClO5
